US05948793
74a. 3-((trans-1-CBZ-4-hydroxy-2-(S)-pyrrolidinyl)methoxy)pyridine
A 700 mg (1.6 mmol) sample of 3-(1-CBZ-(t-butyldimethylsilyloxy)-2-(S)-pyrrolidinylmethoxy)pyridine, prepared as in Example 72d above, was dissolved in 10 mL of THF and 5.0 mL (4.8 mmol) of 1 M tetra-n-butylammonium fluoride was added. The reaction mixture was stirred at room temperature for 2 hours, and the solvent was removed. The residue was purified on a column of silica gel, eluting with 3:1 ethyl acetate:hexane to give 466 mg of the title compound. MS (DCI/NH3) m/e: 328 (M+H)+. 1H NMR (CDCl3,300 MHz) δ: 8.28 (s, 1H), 8.21 (m, 1H), 7.33 (s, 5H), 7.27 (m, 1H), 7.20 (m, 1H), 5.13 (s, 2H), 4.59 (m, 1H), 4.37 (m, 1H), 3.62 (m, 2H), 3.59 (m, 1H), 3.20 (m, 1H), 2.18 (m, 1H).

reactant | 3-(1-CBZ-(t-butyldimethylsilyloxy)-2-(S)-pyrrolidinylmethoxy)pyridine | C(=O)(OCC1=CC=CC=C1)N1[C@@H](CCC1)C(OC=1C=NC=CC1)O[Si](C)(C)C(C)(C)C | C24H34N2O4Si
reactant | tetra-n-butylammonium fluoride | 4.8 mmol, 1 M, 5.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-((trans-1-CBZ-4-hydroxy-2-(S)-pyrrolidinyl)methoxy)pyridine | 466 mg | C(=O)(OCC1=CC=CC=C1)N1[C@@H](C[C@H](C1)O)COC=1C=NC=CC1 | C18H20N2O4
